US06727232B2
14-[5-((R)-{[(3R,4S,5R)-5-(Aminomethyl)-4-hydroxy-3-methoxytetrahydro-2-furanyl]oxy}{(2S,3S,4R,5R)-5-[2,4-dioxo-3,4-dihydro-1 (2H)-pyrimidinyl]-3,4-dihydroxytetrahydro-2-furanyl}methyl)-3-(4-fluorophenyl)-2,4-dioxo-1-imidazolidinyl]-9-(1-hydroxy-2-methylpropyl)-6-(2-iminohexahydro-4-pyrimidinyl)-2-isopropyl-4,7,10-trioxo-3,5,8,11-tetraazatetradecan-1-oic acid
To a solution of 47.3 mg (50 μmol) of 16-({[5-(aminomethyl)-4-hydroxy-3-methoxytetrahydro-2-furanyl]oxy}{5-[2,4-dioxo-3,4-dihydro-1 (2H)-pyrimidinyl]-3,4-dihydroxytetrahydro-2-furanyl}methyl)-9-(1-hydroxy-2-methylpropyl)-6-(2-iminohexahydro-4-pyrimidinyl)-2-isopropyl-4,7,10-trioxo-3,5,8,11, 15-pentaazaheptadecane-1,17-dioic acid λmax nm in water=259) in 2.5 ml of methanol is added 200 μl of pyridine and 200 μl of 2,4-pentanedione at room temperature. The reaction mixture is stirred overnight (the reaction is monitored by mass spectroscopy (MS)). After the reaction is complete, the volatile materials are removed under reduced pressure. N,N-dimethylformamide (DMF) (3 ml) is added to the residue, followed by addition of 13.0 mg (95 μmol) of 4-fluorophenyl isocyanate. The reaction mixture is stirred at room temperature for 50 hours (the reaction was monitored by MS). The volatile materials are removed under reduced pressure to afford a residue to which is added 5 ml of 0.5% trifluoroacetic acid (TFA) in a 1:1 mixture of water and p-dioxane. The mixture is stirred at room temperature for 2 hours. The reaction is monitored by MS and the desired product is identified by liquid chromatography/mass spectrum (LC/MS). After concentration of volatiles to about one ml, 24 mg (44% yield) of the desired product is obtained as a colorless solid using preparative high pressure liquid chromatography (HPLC).

reactant | 16-({[5-(aminomethyl)-4-hydroxy-3-methoxytetrahydro-2-furanyl]oxy}{5-[2,4-dioxo-3,4-dihydro-1 (2H)-pyrimidinyl]-3,4-dihydroxytetrahydro-2-furanyl}methyl)-9-(1-hydroxy-2-methylpropyl)-6-(2-iminohexahydro-4-pyrimidinyl)-2-isopropyl-4,7,10-trioxo-3,5,8,11, 15-pentaazaheptadecane-1,17-dioic acid | 50 μmol, 47.3 mg | NCC1C(C(C(O1)OC(C(NCCCNC(C(NC(C(NC(NC(C(=O)O)C(C)C)=O)C1NC(NCC1)=N)=O)C(C(C)C)O)=O)C(=O)O)C1OC(C(C1O)O)N1C(NC(C=C1)=O)=O)OC)O | C38H63N11O17
reactant | 2,4-pentanedione | 200 μl | CC(CC(C)=O)=O | C5H8O2
reactant | 4-fluorophenyl isocyanate | 95 μmol, 13.0 mg | FC1=CC=C(C=C1)N=C=O | C7H4FNO
reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | water | O | H2O
solvent | methanol | 2.5 ml | CO | CH4O
solvent | p-dioxane | O1CCOCC1 | C4H8O2
solvent | pyridine | 200 μl | N1=CC=CC=C1 | C5H5N
product | 14-[5-((R)-{[(3R,4S,5R)-5-(Aminomethyl)-4-hydroxy-3-methoxytetrahydro-2-furanyl]oxy}{(2S,3S,4R,5R)-5-[2,4-dioxo-3,4-dihydro-1 (2H)-pyrimidinyl]-3,4-dihydroxytetrahydro-2-furanyl}methyl)-3-(4-fluorophenyl)-2,4-dioxo-1-imidazolidinyl]-9-(1-hydroxy-2-methylpropyl)-6-(2-iminohexahydro-4-pyrimidinyl)-2-isopropyl-4,7,10-trioxo-3,5,8,11-tetraazatetradecan-1-oic acid | NC[C@@H]1[C@@H]([C@H](C(O1)O[C@H](C1C(N(C(N1CCCNC(C(NC(C(NC(NC(C(=O)O)C(C)C)=O)C1NC(NCC1)=N)=O)C(C(C)C)O)=O)=O)C1=CC=C(C=C1)F)=O)[C@H]1O[C@H]([C@@H]([C@@H]1O)O)N1C(NC(C=C1)=O)=O)OC)O | C45H65FN12O17
